US08466199B2
The reaction of ethyl 3-hydroxybenzoate and allyl bromide in 2-butanone in the presence of potassium carbonate was performed as described in Example 2 to give 3-Allyloxy-benzoic acid as white powder. 1H-NMR (400 MHz, d6-DMSO): 12.97 (s, —CO2H); 7.47 (d-like, 1 arom. H); 7.40 (m, 2 arom. H); 7.18 (m, 1 arom. H); 5.99 (m, —CH═CH2); 5.37, 5.23 (2 d-like, CH═CH2); 4.03 (d-like, CH2—CH_CH2). 13C-NMR (100 MHz, d6-DMSO): 167.08 (C═O); 158.12; 133.44; 132.27; 129.67; 121.66; 119.47; 117.47; 114.78; 68.27.

reactant | ethyl 3-hydroxybenzoate | OC=1C=C(C(=O)OCC)C=CC1 | C9H10O3
reactant | allyl bromide | C(C=C)Br | C3H5Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | CC(CC)=O | C4H8O
product | 3-Allyloxy-benzoic acid | C(C=C)OC=1C=C(C(=O)O)C=CC1 | C10H10O3
